US06906193B2
6,7-dihydro-5H-benzo[6,7]cyclohepta[1,2-b]quinolin-8-amine.
To a solution of anthranilonitrile (0.69 g, 5.8 mmol) and 1-benzosuberone (1.03 g, 0.96 mL, 6.4 mmol) in 25 mL anhydrous toluene was added boron trifluoride etherate (0.91 g, 0.81 mL, 6.4 mmol) slowly via syringe under a nitrogen atmosphere. The reaction was heated to reflux for 22 h. After cooling, sodium hydroxide solution (25 mL, 2 M, 50 mmol) was added. The reaction was heated to reflux for 23 h. After cooling, the reaction was diluted with ethyl acetate, washed with water (3×50 mL), brine (20 mL), dried over Na2SO4, filtered, and the solvent removed in vacuo. The residue (1.46 g) was dissolved in ethyl acetate:diethyl ether (1:1; 100 mL) with a trace of methanol (3 mL). To the solution was added 7 mL of a 1 N solution of HCl in diethyl ether. A resulting precipitate was collected by vacuum filtration and air-dried to provide the hydrochloride salt of the title compound as an off-white solid (1.30 g, 75%). MS (API+): M+1: 261 (100%); 1H NMR (300 MHz, DMSO-d6/TFA-d) d 2.13-2.29 (br m, 2H), 2.51-2.56 (br m, 2H), 2.56-2.75 (br m, 2H), 7.49 (d, J=7.0 Hz, 1H), 7.55-7.65 (m, 2H), 7.67-7.74 (m, 1H), 7.79 (d, J=7.8 Hz, 1H), 7.91-7.98 (m, 1H), 8.05 (d,J=8.7 Hz, 1H), 8.57 (d, J=8.7 Hz, 1H).

reactant | anthranilonitrile | 5.8 mmol, 0.69 g | C(C=1C(N)=CC=CC1)#N | C7H6N2
reactant | 1-benzosuberone | 6.4 mmol, 0.96 mL, 1.03 g | C1CCC(=O)C2=CC=CC=C2C1 | C11H12O
reactant | boron trifluoride etherate | 6.4 mmol, 0.81 mL, 0.91 g | B(F)(F)F.CCOCC
reactant | sodium hydroxide | 50 mmol, 2 M, 25 mL | [OH-].[Na+]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6,7-dihydro-5H-benzo[6,7]cyclohepta[1,2-b]quinolin-8-amine | 1.30 g, 75% | C1=CC=CC=2CCCC=3C(=NC4=CC=CC=C4C3N)C21 | C18H16N2
